US07151105B2
Step 3: 2-(2,2,2-trifluoro-1 -hydroxyethyl)phenol
Boron tribromide (10 ml) (1M soln in DCM) was added to a solution of 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanol (1.5 g) in dichloromethane (20 ml). The reaction mixture was stirred at room temperature under a atmosphere of nitrogen for 56 hrs. The mixture was then partitioned between DCM (100 ml) and 1N HCl (100 ml), organics washed with water (100 ml), dried over magnesium sulfate, filtered and solvent removed in vacuuo to afford the title compound as a clear yellow oil (1.5 g). 1H NMR (CDCl3): δ 3.50 (bs, 1H), 5.25 (m, 1H), 6.73 (bs, 1H), 7.00 (m, 2H), 7.32 (d, J=2.56Hz, 1H), 7.45 (m, 1H).

reactant | Boron tribromide | 1M, 10 ml | B(Br)(Br)Br | BBr3
reactant | 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanol | 1.5 g | FC(C(O)C1=C(C=CC=C1)OC)(F)F | C9H9F3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(2,2,2-trifluoro-1 -hydroxyethyl)phenol | 1.5 g | FC(C(O)C1=C(C=CC=C1)O)(F)F | C8H7F3O2
